US06632826B1
2-tert-Butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic Acid
A suspension of 2-tert-butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic acid methyl ester (2.28 g, 6.93 mmol) in methanol (10 ml) was vigorously stirred at room temperature during the addition of 2N aqueous sodium hydroxide solution (7 ml, 14 mmol). The resulting mixture was stirred at room temperature for 2 hours and then concentrated in vacuo. The residue was diluted with water (65 ml) and the aqueous layer was extracted with diethyl ether (2*50 ml). The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic phase was dried (anhydrous magnesium sulfate) and concentrated in vacuo to give, after purification by flash chromatography on silica gel, (dichloromethane/methanol: 98/2 to 96/4) 2-tert-butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic acid (2.06 g, 95%) as a pale yellow oil. Mass spectrum, 315 [M+H]+.

reactant | 2-tert-butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic acid methyl ester | 6.93 mmol, 2.28 g | COC(C(CSC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C15H20FNO4S
reactant | sodium hydroxide | 14 mmol, 2N, 7 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-tert-Butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic Acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CSC1=CC=C(C=C1)F | C14H18FNO4S
